US08076324B2
Sodium 4-cyclopropylmethoxy-4-(4-fluorophenyl)-1-phenylcyclohexanecarboxylate
185 mg of 4-cyclopropylmethoxy-4-(4-fluorophenyl)-1-phenylcyclohexanecarboxylic acid were treated with 0.5 ml of a 1 M sodium hydroxide solution and 2 ml of water and cautiously heated to 100° C. The solution became clear. The sodium salt crystallized during cooling. It was filtered off with suction and dried. 155 mg of the title compound were obtained as silvery white flakes.

reactant | 4-cyclopropylmethoxy-4-(4-fluorophenyl)-1-phenylcyclohexanecarboxylic acid | 185 mg | C1(CC1)COC1(CCC(CC1)(C(=O)O)C1=CC=CC=C1)C1=CC=C(C=C1)F | C23H25FO3
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | Sodium 4-cyclopropylmethoxy-4-(4-fluorophenyl)-1-phenylcyclohexanecarboxylate | 155 mg | C1(CC1)COC1(CCC(CC1)(C(=O)[O-])C1=CC=CC=C1)C1=CC=C(C=C1)F.[Na+] | InChI=1S/C23H25FO3.Na/c24-20-10-8-19(9-11-20)23(27-16-17-6-7-17)14-12-22(13-15-23,21(25)26)18-4-2-1-3-5-18;/h1-5,8-11,17H,6-7,12-16H2,(H,25,26);/q;+1/p-1
